US03988444
STEP B: 2-(diethoxythiophosphoryloxy)-4,5,6,7-tetrahydro-7-oxo-benzothiazole
A mixture of 8.4 g of 7-oxo-2,3,4,5,6,7-hexahydrobenzothiazoline-2-one, 10.5 g of potassium carbonate and 100 ml of acetone was refluxed for 1 hour and after addition of 14.5 g of O,O-diethyl chlorothiophosphate thereto, the mixture was refluxed for another hour. The mixture was stirred at room temperature for 24 hours and the mineral salts formed were filtered off. The filtrate was distilled to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with a 6 -4 cyclohexane-ethyl acetate mixture resulted in 3.5 g of 2-(diethoxythiophosphoryloxy)-4,5,6,7-tetrahydro-7-oxo-benzothiazole with a refractive index of nD20 = 1.555.

reactant | 7-oxo-2,3,4,5,6,7-hexahydrobenzothiazoline-2-one | 8.4 g | O=C1CCCC=2NC(SC21)=O | C7H7NO2S
reactant | potassium carbonate | 10.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-diethyl chlorothiophosphate | 14.5 g | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-(diethoxythiophosphoryloxy)-4,5,6,7-tetrahydro-7-oxo-benzothiazole | C(C)OP(=S)(OCC)OC=1SC2=C(N1)CCCC2=O | C11H16NO4PS2
